.title KiCad schematic
Q1 Net-_Q1-Pad1_ Net-_C1-Pad1_ Net-_Q1-Pad3_ Q_NMOS_GDS
D1 GND Net-_D1-Pad2_ LED
R3 Net-_Q1-Pad3_ Net-_D1-Pad2_ 1.4
R2 +3V3 Net-_C1-Pad1_ 1
C1 Net-_C1-Pad1_ GND 12É 
R1 Net-_Q1-Pad1_ +3V3 165
.end
